US05045558
2.79 g of 1-[1-(4-bromophenyl)-butyl]-imidazole and 1.8 g of copper(I) cyanide are heated in 5 ml of N-methylpyrrolidine for 4 hours at 180° C. under a protecting gas atmosphere (argon). After cooling, it is precipitated in 50 ml of ammonia solution, stirred for 15 more minutes at room temperature and extracted with ethyl acetate. After concentration by evaporation in a vacuum 1.95 g of dark oil is obtained. This oil is distilled on a bulb tube in a vacuum; boiling point 200°-215° C./0.05 mbar. The resulting distillate is recrystallized from ethanol/petroleum ether. 1.54 g of 4-[1-(1-imidazolyl)-butyl]-benzonitrile with a melting point of 63°-71° C. is obtained.

reactant | 1-[1-(4-bromophenyl)-butyl]-imidazole | 2.79 g | BrC1=CC=C(C=C1)C(CCC)N1C=NC=C1 | C13H15BrN2
reactant | copper(I) cyanide | 1.8 g | [Cu]C#N
solvent | N-methylpyrrolidine | 5 ml | CN1CCCC1 | C5H11N
product | 4-[1-(1-imidazolyl)-butyl]-benzonitrile | 1.54 g | N1(C=NC=C1)C(CCC)C1=CC=C(C#N)C=C1 | C14H15N3
